data/specific_train_final.csv
"CC(=O)CC(C)([CH2:10])O.[O:20][O]>>CC(=O)CC(C)([CH2:10][O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC12C=CC(C(C1O)OO2)O[O:20].[N+](=O)([O-])[O:10]>>CCC12C=CC(C(C1O)OO2)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
[O]CC(C)(C)OC(C)=O.[O:21][N:10]=O>>[O]CC(C)(C)OC(C)=O.[O-:21][N+:10]=O 10-21,Room Temperature,Propagation,ha resonance
"CCC(CC)O[O:20].[N+](=O)([O-])[O:10]>>CCC(CC)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)O[O:20].[N+](=O)([O-])[O:10]>>CC(=O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:7][CH:6]([CH2:5][O:4][N+:2](=[O:1])[O-:3])[O:8][O:9][O:10][N+:11](=[O:13])[O-:12]>>[CH3:7][CH:6]([CH2:5][O:4][N+:2](=[O:1])[O-:3])[O:8][O:9][O:10].[N+:11](=[O:13])[O-:12] 10,11-11; 10,11-10",Room Temperature,Initiation,homolyze
"C=C(CO[N+](=O)[O-])C(CO)[O:20].[N+:10](=O)[O-]>>C=C(CO[N+](=O)[O-])C(CO)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:13][CH2:12][CH:6]([CH2:7][O:8][N+:9](=[O:11])[O-:10])[O:5][O:4][O:3][N+:2](=[O:1])[O-:14]>>[CH3:13][CH2:12][CH:6]([CH2:7][O:8][N+:9](=[O:11])[O-:10])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:14] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"CCC1=C([CH:21]=[CH:20]C=C1O)C.[N+](=O)([O-])[O:10]>>CCC1=C([CH:21][CH:20](C=C1O)[O:10][N+](=O)[O-])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C(C(O[N+](=O)[O-])Cl)OO[O:20][N+:21](=O)[O-]>>C(C(O[N+](=O)[O-])Cl)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(C)(C)O[O:20].[N:10]=O>>CCCC(C)(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCCC(CC)O[O:10]>>[H:20][O:10]OC(CC)CCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C(=O)C)[O:21][O:20][O].[N+](=O)[O-]>>CCC(C(=O)C)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:21](C=C)([C:20](=O)[O:10])OO>>C[C:21](C=C)OO.[C:20](=O)=[O:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[CH3:5][C:2]([CH2:3][OH:4])([CH:6]=[CH2:7])[O:1].[N+:9](=[O:10])[O-:8]>>[CH3:5][C:2]([CH2:3][OH:4])([CH:6]=[CH2:7])[O:1][N+:9](=[O:10])[O-:8] 1-9,1; 9-1,9",Room Temperature,Termination,recombine
"C(CO)C[O:20][O:21]N=O>>C(CO)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(Cl)Cl)OO[O:20][N+:21](=O)[O-]>>C(C(Cl)Cl)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C=CCO[O:20])O.[N:10]=O>>C(C=CCO[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC1=CC(=CC(=C1)CO[O:10])C>>[H:20][O:10]OCC1=CC(=CC(=C1)C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1=CC=C(C=C1)CO[O:20].[N:10]=O>>CC1=CC=C(C=C1)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(CC)[O:20][O:21][O]>>CCCC(CC)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].C(C(O)Cl)O[O:10]>>[H:20][O:10]OCC(O)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC12CC(C(C=C1)(C)[O:20])OO2.[N+:10](=O)[O]>>CCC12CC(C(C=C1)(C)[O:20][N+:10](=O)[O])OO2 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2]1=[CH:3][CH2:4][CH:5]([CH2:9][CH2:10]1)[C:6](=[CH2:8])[CH3:7].[N+:14](=[O:13])([O-:15])[O:16].[O:11][O:12]>>[CH3:1][C:2]1[CH2:10][CH2:9][CH:5]([CH2:4][CH:3]1[O:16][N+:14](=[O:13])[O-:15])[C:6](=[CH2:8])[CH3:7].[O:11][O:12] 2,3-2; 2,3-3,16; 16-16,3",Room Temperature,Propagation,addition
"CC(CO[O:20])OC(=O)C.[N+](=O)([O-])[O:10]>>CC(CO[O:20][O:10][N+](=O)[O-])OC(=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(COO[O:20][N+:21](=O)[O-])O[N+](=O)[O-]>>CCCC(COO[O:20])O[N+](=O)[O-].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:4][C:3]([CH2:7][OH:8])([C:2]([CH3:1])([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:9][H:10])[O:5][O:6].[N:16]=[O:17]>>[H:4][C:3]([CH2:7][OH:8])([C:2]([CH3:1])([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:9][H:10])[O:5][O:6][N:16]=[O:17] 6-6,16; 16-16,6",Room Temperature,Termination,recombine
"CC1=CC=C(C=C1)C[O:20].[N+:10](=O)[O-]>>CC1=CC=C(C=C1)C[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(C)(C)O[N+](=O)[O-])O[O:20].[N:10]=O>>CC(C(C)(C)O[N+](=O)[O-])O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(CO[N+](=O)[O-])[O:20][O:21][O]>>CC(C)(CO[N+](=O)[O-])[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C)(CO[N+](=O)[O-])[O:20][O:21][O]>>CCC(C)(CO[N+](=O)[O-])[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]Cl.[OH:10]>>[H:20][OH:10].[CH2:21]Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
